US04985419
A 3.5N acetone solution (2.24 cc) of hydrochloric acid is added dropwise to an acetone solution (11 cc) of 10-[(2RS)-1-diethylamino-2-propyl]-N-[(2RS)-2-methylbutyl]-2-phenothiazinecarboxamidine (1.11 g). The mixture is stirred for 3 hours at 25° C. and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is taken up in ethyl ether (50 cc) and the suspension is kept stirred for 3 hours at 25° C. The solid is filtered off on sintered glass, washed with ethyl ether (2×5 cc) and dried for 12 hours under reduced pressure (5 mm Hg; 0.7 kPa) to give 10-[(2RS)-1-diethylamino-2-propyl]-N-[(2RS)-2-methylbutyl]-2-phenothiazinecarboxamidine dihydrochloride (1.07 g), m.p. 212°-214° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 10-[(2RS)-1-diethylamino-2-propyl]-N-[(2RS)-2-methylbutyl]-2-phenothiazinecarboxamidine | 1.11 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)NCC(CC)C)CC | C25H36N4S
solvent | acetone | 11 cc | CC(=O)C | C3H6O
solvent | acetone | 3.5N, 2.24 cc | CC(=O)C | C3H6O
product | 10-[(2RS)-1-diethylamino-2-propyl]-N-[(2RS)-2-methylbutyl]-2-phenothiazinecarboxamidine dihydrochloride | 1.07 g | Cl.Cl.C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)NCC(CC)C)CC | InChI=1S/C25H36N4S.2ClH/c1-6-18(4)16-27-25(26)20-13-14-24-22(15-20)29(19(5)17-28(7-2)8-3)21-11-9-10-12-23(21)30-24;;/h9-15,18-19H,6-8,16-17H2,1-5H3,(H2,26,27);2*1H
